US07754759B2
To a solution of methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester (2.0 g, 4.99 mmol) in 30 mL of NMP was added sodium azide (1.55 g, 0.024 mol). The reaction mixture was heated to 75° C. with stirring for two hours. The reaction was quenched by addition of water, and the resulting mixture was extracted with diethyl ether. The combined organic layers were washed with water and brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (hexanes:EtOAc 3:2) to give 1.76 g (quantitative) of C—[(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-yl]-methyl azide.

reactant | methanesulfonic acid (R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-ylmethyl ester | 4.99 mmol, 2.0 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)COS(=O)(=O)C | C17H17FO6S2
reactant | sodium azide | 0.024 mol, 1.55 g | [N-]=[N+]=[N-].[Na+]
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
product | C—[(R)-7-(3-fluoro-benzenesulfonyl)-chroman-2-yl]-methyl azide | 1.76 g | FC=1C=C(C=CC1)S(=O)(=O)C1=CC=C2CC[C@@H](OC2=C1)CN=[N+]=[N-] | C16H14FN3O3S
